US05409943
(c) N-(3-(2,4,6-Trimethylbenzyloxy)pyrid-2-yl)-N'-(4-chlorophenyl)guanidine
A mixture of yellow mercuric oxide (0.95 g, 0.0044 mol), N-[3-(2,4,6-trimethylbenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea (1.5 g, 0.0036 mol) and methanolic ammonia solution (40 ml) was stirred for 2 days at room temperature. The solvent was removed in vacuo and the black residue was boiled with chloroform and filtered hot. Evaporation of the solvent followed by trituration with ether and recrystallisation from acetonitrile gave the desired product. Yield 1.16 g (82%), m.p. 169°-171 ° C.

reactant | N-[3-(2,4,6-trimethylbenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea | 0.0036 mol, 1.5 g | CC1=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=C(C=C2)Cl)C(=CC(=C1)C)C | C22H22ClN3OS
reactant | ammonia | 40 ml | N | H3N
product | N-(3-(2,4,6-Trimethylbenzyloxy)pyrid-2-yl)-N'-(4-chlorophenyl)guanidine | CC1=C(COC=2C(=NC=CC2)NC(=N)NC2=CC=C(C=C2)Cl)C(=CC(=C1)C)C | C22H23ClN4O
